* Z:\home\sdanthinne\Documents\307\computer\gateTransistorModels\gateTest.asc
XX1 N001 Vxor N002 N003 xor
XX2 N001 Vor N002 N003 or
XX3 N001 Vnor N002 N003 nor
XX4 N001 N002 N003 Vnand nand
XX5 N001 N002 N003 Vand and
Vdd N001 0 5
V§A N002 0 PULSE(0 5 0 10n 10n 0.5m 1m)
V§B N003 0 PULSE(0 5 0 10n 10n 1m 2m)
XX7 N001 Vxnor N002 N003 xnor

* block symbol definitions
.subckt xor Vdd Vout A B
A1 A 0 0 0 0 N001 0 0 BUF td=10n Vhigh=5
A2 B 0 0 0 0 N002 0 0 BUF td=10n Vhigh=5
M1 N003 A Vdd Vdd CMOSP_0.5
M2 N004 B Vdd Vdd CMOSP_0.5
M3 Vout N002 N003 N003 CMOSP_0.5
M4 Vout N001 N004 N004 CMOSP_0.5
M5 Vout A N005 N005 CMOSN_0.5
M6 Vout N001 N006 N006 CMOSN_0.5
M7 N005 B 0 0 CMOSN_0.5
M8 N006 N002 0 0 CMOSN_0.5
.lib DetailedModel.mod
.ends xor

.subckt or Vdd Vout A B
M1 P001 A Vdd Vdd CMOSP_0.5
M2 N001 B P001 P001 CMOSP_0.5
M3 N001 A 0 0 CMOSN_0.5
M4 N001 B 0 0 CMOSN_0.5
A1 N001 0 0 0 0 Vout 0 0 BUF td=10n Vhigh=5
.lib DetailedModel.mod
.ends or

.subckt nor Vdd Vout A B
M1 P001 A Vdd Vdd CMOSP_0.5
M2 Vout B P001 P001 CMOSP_0.5
M3 Vout A 0 0 CMOSN_0.5
M4 Vout B 0 0 CMOSN_0.5
.lib DetailedModel.mod
.ends nor

.subckt nand Vdd A B Vout
M1 Vout B N001 N001 CMOSN_0.5
M2 N001 A 0 0 CMOSN_0.5
M3 Vout B Vdd Vdd CMOSP_0.5
M4 Vout A Vdd Vdd CMOSP_0.5
.lib DetailedModel.mod
.ends nand

.subckt and Vdd A B Vout
M1 N001 B N002 N002 CMOSN_0.5
M2 N002 A 0 0 CMOSN_0.5
M3 N001 B Vdd Vdd CMOSP_0.5
M4 N001 A Vdd Vdd CMOSP_0.5
A1 N001 0 0 0 0 Vout 0 0 BUF
.lib DetailedModel.mod
.ends and

.subckt xnor Vdd Vout A B
A1 A 0 0 0 0 N001 0 0 BUF td=10n Vhigh=5
A2 B 0 0 0 0 N002 0 0 BUF td=10n Vhigh=5
M1 N003 A Vdd Vdd CMOSP_0.5
M2 N004 B Vdd Vdd CMOSP_0.5
M3 N005 N002 N003 N003 CMOSP_0.5
M4 N005 N001 N004 N004 CMOSP_0.5
M5 N005 A N006 N006 CMOSN_0.5
M6 N005 N001 N007 N007 CMOSN_0.5
M7 N006 B 0 0 CMOSN_0.5
M8 N007 N002 0 0 CMOSN_0.5
A3 N005 0 0 0 0 Vout 0 0 BUF td=10n Vhigh=5
.lib DetailedModel.mod
.ends xnor

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\sdanthinne\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 8m
.backanno
.end
